US20010009911A1
Step 1: Phenylsulphamoyl chloride
25.2 g of chlorosulphonic acid are added slowly to a solution of 60.6 g of aniline in 316 ml of methylene chloride cooled to −5° C. When the addition is complete, the mixture is allowed to return to ambient temperature and the precipitate obtained is filtered off. After drying, the precipitate is taken up in 231 ml of toluene, and 45.1 g of phosphorus pentachloride are added gradually. The mixture is then refluxed for 3 hours 30 minutes and, after returning to ambient temperature, the precipitate formed is filtered off. The filtrate is concentrated to obtain the expected product.

reactant | chlorosulphonic acid | 25.2 g | ClS(=O)(=O)O | ClHO3S
reactant | aniline | 60.6 g | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | 316 ml | C(Cl)Cl | CH2Cl2
product | Phenylsulphamoyl chloride | C1(=CC=CC=C1)NS(=O)(=O)Cl | C6H6ClNO2S
